US05550117
6-Cyano-11-cyclopropyl-4-methyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine
Trifluoromethanesulfonie anhydride (5.02 g, 17.8 mmole) was added dropwise to a cooled mixture of 3.00 g (11.3 mmole) of 11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one, 2.32 g (18.0 mmole) of diisopropylethylamine, and 45 mL of methylene chloride. After the addition was complete, the ice bath was removed and the mixture was stirred for one hour. Ethyl acetate (500 mL) was added and the resulting solution was washed with three 100 mL portions of water. The organic solution was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was chromatographed over silica gel (eluted with 50% ethyl acetate/hexane) to provide 3.18 g (8.0 mmole) of the title compound as a yellow oil, suitable for the next reaction.

reactant | 11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 11.3 mmole, 3.00 g | C1(CC1)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC=N2)C | C15H14N4O
reactant | diisopropylethylamine | 18.0 mmole, 2.32 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | 6-Cyano-11-cyclopropyl-4-methyl-11H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 8.0 mmole, 3.18 g | C(#N)C=1C2=C(N(C3=C(N1)C(=CC=N3)C)C3CC3)N=CC=C2 | C16H13N5
